US08080552B2
1-(4-Chloro-3-trifluoromethylphenyl)-3-{4-[2-(3-hydroxy-butylamino)-pyrimidin-4-yloxy]-phenyl}-urea
The compound was prepared from 1-(4-Chloro-3-trifluoromethyl-phenyl)-3-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-phenyl]-urea and 4-amino-butan-2-ol as described in example 10 for 4-amino-butan-1-ol instead.

reactant | 1-(4-Chloro-3-trifluoromethyl-phenyl)-3-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-phenyl]-urea | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=NC(=NC=C1)S(=O)(=O)C)C(F)(F)F | C19H14ClF3N4O4S
reactant | 4-amino-butan-2-ol | NCCC(C)O | C4H11NO
reactant | 4-amino-butan-1-ol | NCCCCO | C4H11NO
product | 1-(4-Chloro-3-trifluoromethylphenyl)-3-{4-[2-(3-hydroxy-butylamino)-pyrimidin-4-yloxy]-phenyl}-urea | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=NC(=NC=C1)NCCC(C)O)C(F)(F)F | C22H21ClF3N5O3
